* Overvoltage Protection (OVP) Circuit Simulation
* sim_18_ovp_protection.cir
*
* PURPOSE: Detect DC bus overvoltage (>400V) and trigger gate driver disable.
*          Response time target: <10µs
*
***************************************************************************

.title Overvoltage Protection (OVP) Circuit Simulation

***************************************************************************
* POWER SUPPLIES
***************************************************************************
V_vcc vcc 0 DC 5

***************************************************************************
* DC BUS VOLTAGE SOURCE
***************************************************************************
V_dcbus dcbus 0 PWL(
+ 0 310
+ 50u 310
+ 100u 420
+ 150u 420
+ 200u 310
+ 250u 310)

***************************************************************************
* HIGH-VOLTAGE RESISTIVE DIVIDER (101:1)
***************************************************************************
R_div1 dcbus div_mid1 1Meg
R_div2 div_mid1 div_mid2 1Meg
R_div3 div_mid2 div_out 1Meg
R_div4 div_out 0 30k

***************************************************************************
* COMPARATOR (simplified, no hysteresis for cleaner response)
***************************************************************************
* Reference for 400V threshold: V_ref = 400 * 30k / 3.03M = 3.96V
* Use slightly lower reference (3.85V) for ~390V trip with margin

R_ref1 vcc v_ref 3k
R_ref2 v_ref 0 10k
* v_ref = 5 * 10k / (3k + 10k) = 3.85V (trips at ~390V)

* Comparator: Output HIGH when div_out > v_ref
B_comp comp_int 0 V = {5 * (1 + tanh((V(div_out) - V(v_ref)) * 100)) / 2}

* Propagation delay (40ns)
R_delay comp_int delay_node 1k
C_delay delay_node 0 40p

* Output buffer
B_out fault_out 0 V = {V(delay_node) > 2.5 ? 5.0 : 0.0}

* Load
R_load fault_out 0 10k

***************************************************************************
* ANALYSIS
***************************************************************************
.tran 0.5u 300u uic

***************************************************************************
* MEASUREMENTS
***************************************************************************
.meas tran v_div_310 FIND v(div_out) AT=25u
.meas tran v_div_420 FIND v(div_out) AT=125u
.meas tran v_ref_actual FIND v(v_ref) AT=25u

* Threshold corresponds to when divider = v_ref
.meas tran t_threshold WHEN v(div_out)=3.85 RISE=1

* Fault output trip
.meas tran t_fault WHEN v(fault_out)=2.5 RISE=1

* Response time
.meas tran t_response PARAM='t_fault - t_threshold'

* Output levels
.meas tran v_out_normal FIND v(fault_out) AT=25u
.meas tran v_out_fault FIND v(fault_out) AT=125u

.control
run

echo ""
echo "============================================"
echo "OVP Circuit Verification - Simulation 18"
echo "============================================"
echo ""
echo "Configuration:"
echo "  Divider: 3M / 30k (101:1 ratio)"
echo "  Reference: 3.85V (~390V bus threshold)"
echo "  Comparator: 40ns propagation delay"
echo ""
echo "Test Scenario:"
echo "  0-50us:    310V (normal)"
echo "  50-100us:  Ramp to 420V"
echo "  100-150us: Hold 420V (fault)"
echo "  150-200us: Return to 310V"
echo ""
echo "============================================"
echo "MEASUREMENTS"
echo "============================================"
echo ""
echo "Reference voltage:"
print v_ref_actual
echo ""
echo "Divider at 310V bus:"
print v_div_310
echo ""
echo "Divider at 420V bus:"
print v_div_420
echo ""
echo "Time when divider reaches threshold:"
print t_threshold
echo ""
echo "Time when fault output trips:"
print t_fault
echo ""
echo "Response time (target <10us):"
print t_response
echo ""
echo "Output at 310V (expect 0V):"
print v_out_normal
echo ""
echo "Output at 420V (expect 5V):"
print v_out_fault
echo ""
echo "============================================"
echo "PASS/FAIL"
echo "============================================"
echo ""

quit
.endc

.end
